US08084448B2
G. 5-{2-Benzyloxy-4-[(E)-2-((S)-2-methanesulfonyl-1,2,3,4-tetrahydroisoquinolin-3-yl)-vinyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a solution of 5-{2-benzyloxy-4-[(E)-2-((S)-2-methanesulfonyl-1,2,3,4-tetrahydroisoquinolin-3-yl)-vinyl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (0.107 g, 0.164 mmol) in DMF (10 mL) is added CsF (0.980 g, 6.47 mmol). The mixture is stirred at 60° C. for 1.25 h, and then diluted with EtOAc (20 mL) and washed with 1N HCl (2×15 mL), followed by brine (2×15 mL). The organic layer is dried with Na2SO4 and the solvent removed under reduced pressure to give the title compound.

reactant | 5-{2-benzyloxy-4-[(E)-2-((S)-2-methanesulfonyl-1,2,3,4-tetrahydroisoquinolin-3-yl)-vinyl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.164 mmol, 0.107 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)\C=C\[C@H]1N(CC2=CC=CC=C2C1)S(=O)(=O)C)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C32H39N3O6S2Si
reactant | CsF | 6.47 mmol, 0.980 g | [F-].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 5-{2-Benzyloxy-4-[(E)-2-((S)-2-methanesulfonyl-1,2,3,4-tetrahydroisoquinolin-3-yl)-vinyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)\C=C\[C@H]1N(CC2=CC=CC=C2C1)S(=O)(=O)C)N1CC(NS1(=O)=O)=O | C27H27N3O6S2
